US04057565
In Angew. Chem., 75, 94 (1963), Bahr and Zohm disclose reaction of chromium trichloride with 2-diethylaminomethylphenyllithium to give tris(2-diethylaminomethylphenyl)chromium. The product was highly unstable to atmospheric oxygen.

reactant | chromium trichloride | [Cl-].[Cl-].[Cl-].[Cr+3]
reactant | 2-diethylaminomethylphenyllithium | C(C)N(CC)CC1=C(C=CC=C1)[Li]
product | tris(2-diethylaminomethylphenyl)chromium | C(C)N(CC)CC1=C(C=CC=C1)[Cr](C1=C(C=CC=C1)CN(CC)CC)C1=C(C=CC=C1)CN(CC)CC | InChI=1S/3C11H16N.Cr/c3*1-3-12(4-2)10-11-8-6-5-7-9-11;/h3*5-8H,3-4,10H2,1-2H3;
